US09227969B2
Step-2.6: Synthesis of tert-butyl 4-amino-3-fluoropiperidine-1-carboxylate, 2.7
Pd/C 10% (12 g) was added to a solution of tert-butyl 4-azido-3-fluoropiperidine-1-carboxylate, 2.6 (62 g, 0.254 mol) in EtOH (600 mL). The reaction was stirred under a hydrogen atmosphere (balloon pressure) for 48 hours. The mixture was filtered through celite-bed and concentrated under reduced pressure to obtain the title compound tert-butyl4-amino-3-fluoropiperidine-1-carboxylate, 2.7 (42 g, 75% yield). LCMS: m/z 218.8 (M+1).

reactant | tert-butyl 4-azido-3-fluoropiperidine-1-carboxylate | N(=[N+]=[N-])C1C(CN(CC1)C(=O)OC(C)(C)C)F | C10H17FN4O2
solvent | EtOH | 600 mL | CCO | C2H6O
catalyst | Pd/C | 12 g | [Pd] | Pd
product | tert-butyl4-amino-3-fluoropiperidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CC(C(CC1)N)F | C10H19FN2O2
